US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (5 g) is alkylated in a high pressure reaction vessel using 2-iodo-1,1,1-trifluoro-ethane (5.7 ml; 38 mmol) and K2CO3 (5.25 g; 38 mmol) at 50° C. for 14 days. After aqueous work-up and purification by RP chromatography the pure material (4 g) is de-acetylated in MeOH (150 ml) using DBU (3.6 ml) at reflux. After aqueous work-up 5-amino-3,3-dimethyl-6-nitro-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one (3,34 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 2-iodo-1,1,1-trifluoro-ethane | 38 mmol, 5.7 ml | ICC(F)(F)F | C2H2F3I
reactant | K2CO3 | 38 mmol, 5.25 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-3,3-dimethyl-6-nitro-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one | 3,34 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC(F)(F)F)=O)(C)C | C12H12F3N3O3
